US08084645B2
(3H-Imidazol-4-yl)-methanol (90 mg, 0.92 mmol) obtained by reducing 3H-imidazole-4-carboaldehyde (commercial product) with lithium aluminum hydride in THF was mixed with PPh3 (245 mg, 0.94 mmol), N-hydroxy-phthalimide (153 mg, 0.94 mmol), and diisopropyl azodicarboxylate (189 mg, 0.94 mmol) in anhydrous THF at 0° C. under a nitrogen atmosphere, and the mixture was stirred. After 4 hours, the reaction mixture was purified by silica gel chromatography to give 2-(3H-imidazol-4-ylmethoxy)-isoindol-1,3-dione (30 mg).

reactant | 3H-imidazole-4-carboaldehyde | N1=CNC(=C1)C=O | C4H4N2O
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | PPh3 | 0.94 mmol, 245 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | N-hydroxy-phthalimide | 0.94 mmol, 153 mg | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | diisopropyl azodicarboxylate | 0.94 mmol, 189 mg | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | C1CCOC1 | C4H8O
product | 2-(3H-imidazol-4-ylmethoxy)-isoindol-1,3-dione | 30 mg | N1=CNC(=C1)CON1C(C2=CC=CC=C2C1=O)=O | C12H9N3O3
